US07205318B2
Cis-4-Benzyloxycarbonylamino-3-[4-(2-oxo-2H-pyridin-1-yl)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester (285 mg, 0.52 mmol) was stirred in TFA (3 mL) and CH2Cl2 (5 mL) at rt for 1.5 h. LC/MS showed completion of the reaction (447.33 (M+H), tR=2.23 min, 10–90% MeOH in H2O with 10 mM NH4OAc in a 4-min run). The solvents were evaporated. Half of the residue (0.26 mmol) was dissolved in CH3CN (2 mL). HCHO (37% wt in H2O, 0.20 mL) was added, followed by the addition of NaCNBH3 (78 mg). The resulting mixture was stirred at rt for 40 min. HOAc was added dropwise to neutralize the mixture. The resulting mixture was stirred for additional 1 h, extracted with EtOAc (3×), dried over MgSO4, filtered, and concentrated to dryness to give crude cis-{1-methyl-3-[4-(2-oxo-2H-pyridin-1-yl)-benzoylamino]-piperidin-4-yl}-carbamic acid benzyl ester (130 mg). Anal. LC/MS (ESI) 461.14 (M+H), tR=2.63 min (10%–90% MeOH in H2O with 10 mM NH4OAc in a 4-min run).

reactant | Cis-4-Benzyloxycarbonylamino-3-[4-(2-oxo-2H-pyridin-1-yl)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | 0.52 mmol, 285 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)NC(C1=CC=C(C=C1)N1C(C=CC=C1)=O)=O | C30H34N4O6
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
reactant | HCHO | 0.20 mL | C=O | CH2O
reactant | NaCNBH3 | 78 mg | [BH3-]C#N.[Na+]
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | O | H2O
solvent | CH3CN | 2 mL | CC#N | C2H3N
solvent | HOAc | CC(=O)O | C2H4O2
solvent | MeOH | CO | CH4O
product | cis-{1-methyl-3-[4-(2-oxo-2H-pyridin-1-yl)-benzoylamino]-piperidin-4-yl}-carbamic acid benzyl ester | 130 mg | C(C1=CC=CC=C1)OC(N[C@@H]1[C@@H](CN(CC1)C)NC(C1=CC=C(C=C1)N1C(C=CC=C1)=O)=O)=O | C26H28N4O4
